US04530715
11.3 g of 2,2,3-trichloropropionaldehyde were added dropwise to 9.2 g (0.056 mol) of 1-methyl-1-(1,2,4-triazol-1-yl-acetyl)-cyclopropane in 120 ml of tetrahydrofuran and 13.6 g (0.1 mol) of potassium carbonate, the temperature increasing slightly. The reaction solution was stirred overnight at room temperature and was thereafter introduced into 500 ml of water. The resulting precipitate was filtered off under suction and recrystallized from methanol. 5.5 g (30% of theory) of 1,2,2-trichloro-3-hydroxy-4-(1,2,4-triazol-1-yl)-5-(1-methylcycloprop-1-yl)-pentan-5-one of melting point 182° to 186° C. were obtained.

reactant | 2,2,3-trichloropropionaldehyde | 11.3 g | ClC(C=O)(CCl)Cl | C3H3Cl3O
reactant | 1-methyl-1-(1,2,4-triazol-1-yl-acetyl)-cyclopropane | 0.056 mol, 9.2 g | CC1(CC1)C(CN1N=CN=C1)=O | C8H11N3O
reactant | potassium carbonate | 0.1 mol, 13.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 500 ml | O | H2O
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | 1,2,2-trichloro-3-hydroxy-4-(1,2,4-triazol-1-yl)-5-(1-methylcycloprop-1-yl)-pentan-5-one | 5.5 g, 30% | ClCC(C(C(C(=O)C1(CC1)C)N1N=CN=C1)O)(Cl)Cl | C11H14Cl3N3O2
